US07541372B2
2,6-Dimethoxy-3-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4] oxadiazol-2-yl]-pyridine
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (500 mg, 2.30 mmol) was converted using 2,6-dimethoxynicotinic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate=80:20 to 40:60, 204 mg, 24%) which was obtained as a white solid. MS: m/e=365.2 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 2.30 mmol, 500 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 2,6-dimethoxynicotinic acid | COC1=C(C(=O)O)C=CC(=N1)OC | C8H9NO4
product | 2,6-Dimethoxy-3-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4] oxadiazol-2-yl]-pyridine | 204 mg, 24% | COC1=NC(=CC=C1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H16N4O4
